US08222411B2
2-(6-Chloro-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-ylmethyl)-benzonitrile (2).
To a solution of 6-chlorouracil (20 g, 122 mmol) in a mixture of DMF-DMSO (6:1, 600 mL) under nitrogen at 0° C., was added sodium hydride (60%, 5.5 g, 137 mmol) in portions. After 0.5 h, lithium bromide (8 g, 96 mmol) was added into the mixture and stirred for 15 min at 0° C. A solution of α-Bromo-o-tolunitrile (25.1 g, 128 mmol) in DMF (30 mL) was added dropwise, and stirred at this temperature for 1 h, and then RT overnight. The mixture was evaporated and co-evaporated with water in vacuo to remove most of the DMF, and then poured into ice water (1 L). The precipitate was collected by filtration. The crude product was suspended in hot AcOEt-CHCl3 and sonicated for 5 min, allowed to stand at 0° C. for 1 h, and then filtered to give a white solid of the title compound (19 g) in 54% yield. 1H-NMR (400 MHz, DMSO): δ 11.82 (s, 1H), 7.87 (d, 1H, J=7.6 Hz), 7.71 (t, 1H, J=7.6 Hz), 7.51 (t, 1H, J=7.6 Hz), 7.37 (d, 1H, J=8 Hz), 6.06 (s, 1H), 5.31 (s, 2H). MS (ES) [m+H] calc'd for C12H9ClN3O2, 262.0; found 262.0.

reactant | 6-chlorouracil | 122 mmol, 20 g | ClC1=CC(NC(N1)=O)=O | C4H3ClN2O2
reactant | sodium hydride | 137 mmol, 5.5 g | [H-].[Na+]
reactant | lithium bromide | 96 mmol, 8 g | [Br-].[Li+]
reactant | α-Bromo-o-tolunitrile | 128 mmol, 25.1 g | BrCC=1C(=CC=CC1)C#N | C8H6BrN
solvent | DMF DMSO | 600 mL | CN(C)C=O.CS(=O)C
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2-(6-Chloro-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-ylmethyl)-benzonitrile | 19 g, 54% yield | ClC1=CC(NC(N1CC1=C(C#N)C=CC=C1)=O)=O | C12H8ClN3O2
